US05482941
2-(2-Ethoxybenzamido)-6-methylbenzamide
A mixture of 2-amino-6-methylbenzamide (UK Patent Application No 1,276,359; 5.49 g, 0.0365 mol), 2-ethoxybenzoyl chloride (7.67 g, 0.0415 mol) and pyridine (100 ml) was stirred at room temperature for 20 hours. The solvent was then removed by evaporation under vacuum and the residue dissolved in dichloromethane (200 ml). The solution was washed with saturated aqueous sodium carbonate solution (200 ml) and the aqueous phase back-extracted with further dichloromethane (2×100 ml). The organic solutions were combined, washed successively with 2N hydrochloric acid (3×100 ml) and brine (100 ml), then dried (Na2SO4) and evaporated under vacuum to give the title compound, which recrystallized from ethyl acetate as a colorless solid (6.86 g, 63%), m.p. 166°-168° C. Found: C,68.28; H,5.97; N,9.42. C17H18N2O3 requires C;68.44; H,6.08; N,9.39%.

reactant | 2-amino-6-methylbenzamide | NC1=C(C(=O)N)C(=CC=C1)C | C8H10N2O
reactant | 2-ethoxybenzoyl chloride | 0.0415 mol, 7.67 g | C(C)OC1=C(C(=O)Cl)C=CC=C1 | C9H9ClO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-Ethoxybenzamido)-6-methylbenzamide | C(C)OC1=C(C(=O)NC2=C(C(=O)N)C(=CC=C2)C)C=CC=C1 | C17H18N2O3
